US06559091B1
To a flame-dried, 2 L round-bottomed flask equipped with a Dean-Stark trap were added 300 mL of o-xylene and 50 g (248.6 mmol) of chelidamic acid monohydrate. The resulting slurry was heated to reflux and stirred for 4 h then allowed to cool to room temperature. To the mixture was added 207.1 g (994.4 mmol) of PCI5 in several small quantities. The resulting solution was stirred for 30 min at 25° C. then heated to reflux and stirred for an additional 1.5 h. The solution was allowed to cool to room temperature then cooled to 0° C. and quenched by adding 300 mL of anhydrous methanol slowly over 1 h. The solution was heated to reflux for 45 min and the excess methanol was removed by distillation. Once complete, the mixture was cooled to 0° C. and dimethyl-4-chloro-2,6-pyridinedicarboxylate crystallized out of solution. The product was collected by vacuum filtration and washed with 50 mL of cold methanol to give 29.9 g of dimethyl-4-chloro-2,6-pyridinedicarboxylate. 1H NMR (CDCl3, 300 MHz) δ4.03 (s, 6H), 8.30 (s, 2H). To a 500 mL round-bottomed flask were added 900 mg (3.9 mmol) of dimethyl-4-chloro-2,6-pyridinedicarboxylate, 1.4 mL (13.3 mmol) of N,N′-dimethylethylenediamine, and 100 mL of anhydrous toluene. The resulting solution was cooled to 0° C. and 20.0 mL of a 2 M solution of trimethylaluminum (40.0 mmol) in toluene was added dropwise. The solution was heated to reflux and stirred for 14 h then cooled to 0° C. The reaction was quenched by adding a solution of 1.65 g (11.0 mmol) of tartaric acid in 44 mL of 0.5 N NaOH. Stirring was continued for 1 h and the resulting slurry was filtered through Celite. The filtrate was transferred into a separatory funnel. Two layers formed and the organic material was collected, dried over anhydrous K2CO3, filtered, and concentrated in vacuo to an oil. Silica gel chromatography (50% methylene chloride in hexane) of the oil provided 128 mg of 4-chloro-2,6-diacetylpyridine. 1H NMR (CDCl3, 300 MHz) δ2.77 (s, 6H), 8.16 (s, 2H). To a 50 mL round-bottomed flask equipped with a Dean-Stark trap were added 20 mL of anhydrous toluene, 130 mg (0.66 mmol) of 4-chloro-2,6-diacetylpyridine, 235 mg (1.30 mmol) of 1-amino-2-tert-butyl-5-isopropylpyrrole, and 0.1 mg of p-toluenesulfonic acid monohydrate. The reaction mixture was stirred and heated to reflux. After 6 h, the resulting solution was allowed to cooled to room temperature and concentrated in vacuo to an oil. Silica gel chromatography (33% methylene chloride in hexane) of the oil provided 166 mg of h32. 1H NMR (CDCl3, 300 MHz) δ1.05 (d, J=6.5 Hz, 3H), 1.26 (d, J=6.8 Hz, 3H), 1.29 (s, 9H), 2.29 (s, 6H ), 2.41 (qu, J=6.8 Hz, 2H), 5.93 (d, J=3.9 Hz, 2H), 5.98 (d, J=4 Hz, 2H), 8.53 (s,2H).

reactant | dimethyl-4-chloro-2,6-pyridinedicarboxylate | 3.9 mmol, 900 mg | COC(=O)C1=NC(=CC(=C1)Cl)C(=O)OC | C9H8ClNO4
reactant | N,N′-dimethylethylenediamine | 13.3 mmol, 1.4 mL | CNCCNC | C4H12N2
reactant | trimethylaluminum | 40.0 mmol | C[Al](C)C
reactant | tartaric acid | 11.0 mmol, 1.65 g | C(C(O)C(O)C(=O)O)(=O)O | C4H6O6
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | NaOH | 0.5 N, 44 mL | [OH-].[Na+]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-2,6-diacetylpyridine | 128 mg | ClC1=CC(=NC(=C1)C(C)=O)C(C)=O | C9H8ClNO2
